US08212041B2
3,6-Dichloro-4-methylpyridazine (1.00 g, 6.1 mmol) was mostly dissolved in dioxane (22.5 mL) then added phenylboronic acid (0.82 g, 6.7 mmol), PdCl2(dppf)-CH2Cl2Adduct (0.25 g, 0.31 mmol) and a solution of cesium carbonate (6.0 g, 18 mmol) in water (7.5 mL). The reaction mixture was heated at 80° C. for 6 hours. The reaction mixture was concentrated under vacuum and the remaining solid was triturated with water. The solid was collected on a glass frit, washing well with water. The sample was purified by flash chromatography eluting with 1:4 ethyl acetate/hexane to afford 3-chloro-4-methyl-6-phenylpyridazine as an off-white solid.

reactant | 3,6-Dichloro-4-methylpyridazine | 6.1 mmol, 1.00 g | ClC=1N=NC(=CC1C)Cl | C5H4Cl2N2
reactant | phenylboronic acid | 6.7 mmol, 0.82 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | cesium carbonate | 18 mmol, 6.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 22.5 mL | O1CCOCC1 | C4H8O2
solvent | water | 7.5 mL | O | H2O
product | 3-chloro-4-methyl-6-phenylpyridazine | ClC=1N=NC(=CC1C)C1=CC=CC=C1 | C11H9ClN2
